US08293758B2
N,N,2-trimethyl-4-phenyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine (non-polar diastereomer and polar diastereomer mixture)
(±)-4-dimethylamino-2-methyl-4-phenylcyclohexanone (461 mg, 2 mmol) together with tryptophol (322 mg, 2 mmol) was dissolved in DCM (100 ml) and mixed with trifluoromethane sulphonic acid (0.19 ml, 2.14 mmol). The mixture was stirred at RT for 20 h. The reaction mixture was mixed with 2N NaOH (2 ml) and H2O (2 ml) and stirred for 20 min. The organic residue was firstly washed with 2N NaOH (5 ml), then with H2O (5 ml) and dried over Na2SO4. The solvent was then removed in vacuum. The semisolid residue obtained was taken up in 10 ml of ethanol and cooled to 5° C. for 2 h. The solid precipitated out during this was discarded. The residue remaining in the mother liquor was purified by column chromatography on silica gel (50 g, EE/ethanol=4:1).

reactant | (±)-4-dimethylamino-2-methyl-4-phenylcyclohexanone | 2 mmol, 461 mg | CN(C1(CC(C(CC1)=O)C)C1=CC=CC=C1)C | C15H21NO
reactant | tryptophol | 2 mmol, 322 mg | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | trifluoromethane sulphonic acid | 2.14 mmol, 0.19 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | 2N, 2 ml | [OH-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | H2O | 2 ml | O | H2O
product | N,N,2-trimethyl-4-phenyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine | CN(C1(CC(C2(OCCC3=C2NC2=CC=CC=C32)CC1)C)C1=CC=CC=C1)C | C25H30N2O
